US04509537
1-(2-Methoxyphenoxycarbonyloxy)-2,2-dimethyl-3-propanol
The reaction of 2-methoxyphenol chloroformate with 2,2-dimethyl-1,3-propanediol is conducted on a 0.01 mole scale employing the same conditions as described in Example III, except that the addition of the chloroformate solution is accomplished at room temperature. A 1.4 g yield of the pure product is obtained as an oil.

reactant | 2-methoxyphenol chloroformate | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
reactant | chloroformate | ClC(=O)[O-]
product | 1-(2-Methoxyphenoxycarbonyloxy)-2,2-dimethyl-3-propanol | COC1=C(OC(=O)OCC(CO)(C)C)C=CC=C1 | C13H18O5
